US04367238
A mixture of ethyl 2-cyano-2-[2-methoxy-3-(o-tolyloxy)phenyl]-n-octanoate (6.6 g), acetic acid (30 ml) and hydriodic acid (58%, 30 ml) was refluxed under heating for 48 hours. After cooling, acetic acid was distilled off under reduced pressure. To the residue was added water, and the mixture was extracted with diethyl ether. The extract was washed with water, aqueous sodium hydrogen sulfite, aqueous sodium bicarbonate and water in turn, dried and then evaporated under reduced pressure. The oily residue (4.5 g) was subjected to column chromatography on silica gel (80 g) and eluted with benzene to give oily 3-(n-hexyl)-7-(o-tolyloxy)-2,3-dihydrobenzofuran-2-one (2.5 g).

reactant | ethyl 2-cyano-2-[2-methoxy-3-(o-tolyloxy)phenyl]-n-octanoate | 6.6 g | C(#N)C(C(=O)OCC)(CCCCCC)C1=C(C(=CC=C1)OC1=C(C=CC=C1)C)OC | C25H31NO4
reactant | hydriodic acid | 30 ml | I | HI
solvent | acetic acid | 30 ml | C(C)(=O)O | C2H4O2
product | 3-(n-hexyl)-7-(o-tolyloxy)-2,3-dihydrobenzofuran-2-one | 2.5 g | C(CCCCC)C1C(OC2=C1C=CC=C2OC2=C(C=CC=C2)C)=O | C21H24O3
